### PR TITLE
Register `MDifferentiable` to `fun_prop` & simplify proofs

### LINKED ISSUE #277: `fun_prop` for `MDifferentiable`
Related: https://github.com/leanprover-community/mathlib4/pull/33808

Add `fun_prop` tags to the theorems on `MDifferentiable`, including basic theorems (const, add, mul, comp, ...), holomorphicity of modular forms, and (Serre) derivative related theorems. This will allow us to do

```lean
theorem F_holo : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) F := by
  unfold F
  fun_prop
```

### PR DESCRIPTION
**Pull request by seewoo5**
Simplify holomorphicity proofs by registering `MDifferentiable` and holomorphicity of Eisenstein series & theta functions to `fun_prop`.

Depends on:
- #273 

Closes #277

### CODE REVIEW

**Comment by cameronfreer** [comment]
I think if we add `@[fun_prop]` to `H₂_SIF_MDifferentiable`, `H₃_SIF_MDifferentiable`, and `H₄_SIF_MDifferentiable` in `JacobiTheta.lean` then we get to do
```lean
lemma f₂_MDifferentiable : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f₂ := by simp only [f₂]; fun_prop      

lemma f₃_MDifferentiable : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f₃ := by simp only [f₃, sq]; fun_p     

lemma f₄_MDifferentiable : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) f₄ := by simp only [f₄]; fun_prop      
```
in `ThetaDerivIdentities.lean`

**Review by cameronfreer — APPROVED** [review]
Aside from these possible additions, LGTM

**Comment by seewoo5** [comment]
@cameronfreer Nice catches! I replaced these proofs. I didn't tag them with `fun_prop` since these won't be used anywhere else.

File: SpherePacking/ForMathlib/MDifferentiableFunProp.lean [hunk 1]
```diff
@@ -0,0 +1,29 @@
...
+import Mathlib.NumberTheory.ModularForms.EisensteinSeries.Basic
+import Mathlib.Tactic.FunProp
+
+import SpherePacking.ModularForms.Eisenstein
+
+open scoped Manifold UpperHalfPlane EisensteinSeries
+
+theorem E₄_MDifferentiable : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) E₄.toFun := E₄.holo'
+
+theorem E₆_MDifferentiable : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) E₆.toFun := E₆.holo'
```
Comment (CBirkbeck) [inline SpherePacking/ForMathlib/MDifferentiableFunProp.lean:12]: Do we need these? why not use E4.holo' where needed?

**Review by CBirkbeck — APPROVED** [review]
LGTM!

File: SpherePacking/ForMathlib/MDifferentiableFunProp.lean (hunk 1 above)
Comment (seewoo5) [reply SpherePacking/ForMathlib/MDifferentiableFunProp.lean:12]: I wanted to make single `fun_prop` proves every remaining holomorphicity claims, so I registered these to `fun_prop` in the same file. Also I cannot do this with `E₄.holo'` since it is MDifferentiability for `⇑E₄.toSlashInvariantForm` not `E₄.toFun`; so probably because of the extra coercion needed from SIF to actual function blocks this?

Comment (CBirkbeck) [reply SpherePacking/ForMathlib/MDifferentiableFunProp.lean:12]: fair enough!
